US04983600
(c) N-[[[1-Azabicyclo[2.2.2]octan-3-yl] amino]carbonyl]-2-((cyclopropyl)methoxy)benzamide
The above compound was prepared, following the procedure of Example 1, from 3-aminoquinuclidine (0.63 g, 5 mmol) and crude 2-((cyclopropyl)methoxy)benzamide (1.4 g, ca 5 mmol). The product was converted to the 1:1 oxalate, half hydrate mp 128°-131° C.

reactant | 3-aminoquinuclidine | 5 mmol, 0.63 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-((cyclopropyl)methoxy)benzamide | ca 5 mmol, 1.4 g | C1(CC1)COC1=C(C(=O)N)C=CC=C1 | C11H13NO2
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | N-[[[1-Azabicyclo[2.2.2]octan-3-yl] amino]carbonyl]-2-((cyclopropyl)methoxy)benzamide | N12CC(C(CC1)CC2)NC(=O)NC(C2=C(C=CC=C2)OCC2CC2)=O | C19H25N3O3
